US05683623
1-(2,3-Difluorophenyl)heptan-1-ol
Quantities: n-butyllithium (50 cm3, 10.0M in hexanes, 0.5 mol), heptanal (57 g, 0.5 mol) and 1,2-difluorobenzene (57 g, 0.5 mol). The experimental procedure was as described in Example 16.

reactant | n-butyllithium | 0.5 mol, 10.0M, 50 cm3 | C(CCC)[Li]
reactant | heptanal | 0.5 mol, 57 g | C(CCCCCC)=O | C7H14O
reactant | 1,2-difluorobenzene | 0.5 mol, 57 g | FC1=C(C=CC=C1)F | C6H4F2
product | 1-(2,3-Difluorophenyl)heptan-1-ol | FC1=C(C=CC=C1F)C(CCCCCC)O | C13H18F2O
